US06407267B1
2,2-Dimethyl-propionic Acid 5-Cyano-2-[1-(4-fluoro-phenyl)-l-hydroxy-methyl]-benzyl Ester
To a stirred solution of (4-cyano-2-hydroxymethylphenyl)(4-fluorophenyl)methanol (9.2 g, 0.037 mol) and triethylamine (4.0 g, 0.04 mol) was added pivaloyl chloride (4.2 g, 0.39 mol). After stirring for 60 minutes the reaction mixture was poured onto ice, extracted with diethyl ether (2×75 mL), dried (MgSO4), and concentrated under reduced pressure to give a colourless oil (12.0 g). The compound was purified by chromatography (eluent hexane/ethyl acetate 1:9 to give the title compound (8.2 g, 70%).

reactant | (4-cyano-2-hydroxymethylphenyl)(4-fluorophenyl)methanol | 0.037 mol, 9.2 g | C(#N)C1=CC(=C(C=C1)C(O)C1=CC=C(C=C1)F)CO | C15H12FNO2
reactant | triethylamine | 0.04 mol, 4.0 g | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 0.39 mol, 4.2 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
product | 2,2-Dimethyl-propionic Acid 5-Cyano-2-[1-(4-fluoro-phenyl)-l-hydroxy-methyl]-benzyl Ester | 12.0 g | C(#N)C=1C=CC(=C(COC(C(C)(C)C)=O)C1)C(O)C1=CC=C(C=C1)F | C20H20FNO3
